US09079878B2
2-(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)propanoic acid
Ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate (Preparation 29, 43 g, 140 mmol) was stirred in methanol (200 mL) and a 1M aqueous solution of sodium hydroxide (200 mL) for 18 hours at room temperature. The reaction was concentrated in vacuo and partitioned between diethyl ether and water. The pH of the aqueous layer was adjusted to pH3 with potassium hydrogen sulphate and extracted with dichloromethane. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound that was used without purification in the next step.

reactant | Ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate | 140 mmol, 43 g | C(C1=CC=CC=C1)OC(=O)NC1(COC1)C(C(=O)OCC)C | C16H21NO5
reactant | sodium hydroxide | 200 mL | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 2-(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)propanoic acid | C(C1=CC=CC=C1)OC(=O)NC1(COC1)C(C(=O)O)C | C14H17NO5
